US05861417
Combine methyl 2-methyl-5-nitrobenzoate (5.32 g, 27.2 mmol) and methanol (100 mL). Add 5% palladium-on-carbon (0.27 g). Hydrogenate on a pressure apparatus at 50 psi. After 18 hours, filter through celite to remove the catalyst and evaporate the filtrate in vacuo to give methyl 2-methyl-5-aminobenzoic acid: Rf =0.34 (silica gel, ethyl acetate/hexane 1/4).

reactant | methyl 2-methyl-5-nitrobenzoate | 27.2 mmol, 5.32 g | CC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C9H9NO4
reactant | methanol | 100 mL | CO | CH4O
catalyst | palladium-on-carbon | 0.27 g | [Pd] | Pd
product | methyl 2-methyl-5-aminobenzoic acid | CC=1C(=C(C(=O)O)C=C(C1)N)C | C9H11NO2
